US06218404B1
Preparation of 4-Benzyl-1-(3-azidopropyl)piperidine
Sodium azide was added to a solution of 4-benzyl-1-(3-p-toluenesulfonyloxypropyl)piperidine (0.216 g, 0.56 mmol) in DMF (5 mL). The resulting solution was stirred at 80° C. for 3 h then cooled at 25° C., diluted with water (50 mL) and extracted with diethyl ether (2×50 mL). The collected organic phase was washed with water (2×50 mL), dried and concentrated in vacuum to afford crude title compound as an oil (0.15 g). 1H-NMR (CDCl3): 1.2-1.4 (m, 2H), 1.4-1.6 (m, 1H) 1.628 (dd, J=13.2 Hz, 2H), 1. 761 (t, J=7.2 Hz, 2H), 1.857 (t, J=11.4 Hz, 2H), 2.367 (t, J=7.2 Hz, 2H), 2.53 (d, J=7.2 Hz, 2H), 2.86 (bd, J=11.4, 2H), 3.314 (t, J=6.9 Hz, 2H), 7.14 (d, J=7.5 Hz, 2H), 7.19 (d, J=6.9, 1H), 7.275 (t, J=7.2 Hz, 2H).

reactant | Sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | 4-benzyl-1-(3-p-toluenesulfonyloxypropyl)piperidine | 0.56 mmol, 0.216 g | C(C1=CC=CC=C1)C1CCN(CC1)CCCOS(=O)(=O)C1=CC=C(C=C1)C | C22H29NO3S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | 4-Benzyl-1-(3-azidopropyl)piperidine | 0.15 g | C(C1=CC=CC=C1)C1CCN(CC1)CCCN=[N+]=[N-] | C15H22N4
